US06780855B2
500 mg of 11β-fluoro-3-hydroxy-7α-(5-(methyl-amino)-pentyl)-estra-1,3,5(10)-trien-17-one is dissolved in 15 ml of ethylmethylketone, mixed with 1.1 g of potassium carbonate and 1.5 ml of 1,1,1,2,2-pentafluor-5-iodo-pentane and refluxed for 2.5 hours. For working-up, the reaction mixture is cooled to room temperature, stirred into saturated common salt solution, extracted with ethyl acetate, dried on magnesium sulfate and concentrated by evaporation in a vacuum. Preparative column chromatography on silica gel with a methylene chloride-methanol gradient provides 397 mg of 11β-fluoro-3-hydroxy-7α-{5-[methyl-(4,4,5,5,5-pentafluoro-pentyl)-amino]-pentyl}-estra-1,3,5(10)-trien-17-one.

reactant | 11β-fluoro-3-hydroxy-7α-(5-(methyl-amino)-pentyl)-estra-1,3,5(10)-trien-17-one | 500 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCNC)O | C24H34FNO2
reactant | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,1,2,2-pentafluor-5-iodo-pentane | 1.5 ml | FC(C(CCCI)(F)F)(F)F | C5H6F5I
solvent | ethylmethylketone | 15 ml | C(C)C(=O)C | C4H8O
product | 11β-fluoro-3-hydroxy-7α-{5-[methyl-(4,4,5,5,5-pentafluoro-pentyl)-amino]-pentyl}-estra-1,3,5(10)-trien-17-one | 397 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN(CCCC(C(F)(F)F)(F)F)C)O | C29H39F6NO2
